US04200748
A mixture of 5.1 g. of 11-amino-1,2,3,4,4a,5-hexahydropyrido[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline, 100 ml. of methylene chloride and 20 ml. of 1 N sodium hydroxide is stirred and 2.8 g. of benzoyl chloride is added. The reaction mixture is stirred overnight and the layers are separated. The methylene chloride layer is washed with water and concentrated and N-(1,2,3,4,4a,5-hexahydropyrido[1',2':4,5][1,4]oxazino[2,3-b] quinoxalin-11-yl)benzamide is obtained.

reactant | 11-amino-1,2,3,4,4a,5-hexahydropyrido[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline | NC=1C=2N=C3C(=NC2C=CC1)OCC1N3CCCC1 | C14H16N4O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(1,2,3,4,4a,5-hexahydropyrido[1',2':4,5][1,4]oxazino[2,3-b] quinoxalin-11-yl)benzamide | C1CCCC2N1C=1C(=NC=3C=CC=C(C3N1)NC(C1=CC=CC=C1)=O)OC2 | C21H20N4O2
